US09085583B2
tert-butyl((2,4-dimethoxy-6-methylpyridin-3-yl)methyl)carbamate (83 g, 294 mmol) was dissolved in 4 N HCl/H2O (830 ml). Then the mixture was refluxed for 4.5 h. (The reaction mixture was monitored by MS spectrum to make sure the methyl group at 2-position de-protect completely.) After the reaction completed, the mixture was concentrated under vacuum to give a brown oil. The oil was suspended in EtOH (300 ml) for 15 min to give a yellow precipitate. The precipitate was filtered, washed with ethanol (100 ml) and MTBE (100 ml) and dried under high vacuum to give 38 g of fraction 1 3-(aminomethyl)-4-methoxy-6-methylpyridin-2-ol (Purity 98% by LCMS, yield 63%) as a yellow powder. In the meantime, the filtration from fraction 1 was concentrated under vacuum and the residue was solidified by ethanol (100 ml). The precipitate was filtered, washed with ethanol (100 ml) and MTBE (100 ml) and dried under high vacuum to give 20 g of fraction 2 3-(aminomethyl)-4-methoxy-6-methylpyridin-2-ol (Purity 94% by LCMS, yield 33%) as a yellow powder.

reactant | tert-butyl((2,4-dimethoxy-6-methylpyridin-3-yl)methyl)carbamate | 294 mmol, 83 g | C(C)(C)(C)OC(NCC=1C(=NC(=CC1OC)C)OC)=O | C14H22N2O4
solvent | HCl H2O | 4 N, 830 ml | Cl.O
solvent | EtOH | 300 ml | CCO | C2H6O
product | 3-(aminomethyl)-4-methoxy-6-methylpyridin-2-ol | yield 63% | NCC=1C(=NC(=CC1OC)C)O | C8H12N2O2
